US06194487B1
Next, in the mixing section 22, the vapor atmosphere of 1,10-diaminodecane was cooled, and the introduced base particles were exposed thereto for 5 minutes. Consequently, a polymerization reaction took place on the surface of the base particles between 1,4-butanedisulfonyl chloride and 1,10-diaminodecane, forming a film of 1,4-butanedisulfonylchloride-1,10-diaminodecane co-polymer.

reactant | 1,10-diaminodecane | NCCCCCCCCCCN | C10H24N2
reactant | 1,4-butanedisulfonyl chloride | C(CCCS(=O)(=O)Cl)S(=O)(=O)Cl | C4H8Cl2O4S2
product | 1,4-butanedisulfonylchloride 1,10-diaminodecane | C(CCCS(=O)(=O)Cl)S(=O)(=O)Cl.NCCCCCCCCCCN | InChI=1S/C10H24N2.C4H8Cl2O4S2/c11-9-7-5-3-1-2-4-6-8-10-12;5-11(7,8)3-1-2-4-12(6,9)10/h1-12H2;1-4H2
